US20010025047A1
Ethyl 4-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A mixture of 5.76 g (20.33 mmol) of ethyl 4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate and 15.58 g of phosphorus oxychloride was refluxed 1.5 hr, chilled and poured slowly onto crushed ice. The mixture was filtered and the solid washed with ice-water and dried to give 6.0 g of solid, m.p. 89-91° C.

reactant | ethyl 4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 20.33 mmol, 5.76 g | OC1=C2C(=NC=C1C(=O)OCC)N(N=C2)C2=CC=CC=C2 | C15H13N3O3
reactant | phosphorus oxychloride | 15.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 4-chloro-1-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 6.0 g | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2)C2=CC=CC=C2 | C15H12ClN3O2
